Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fever, HA, Abd Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo M Dermatologist with a h/o HTN who presents w/ 5 days of 
HA, fatigue, fevers, and RLQ abdominal pain. Patient states that 
he began having fatigue and HA about 5 days ago, along with RLQ 
pain and flatulence. ___ he noted subjective fevers, and 
checked his temperature which was approximately 103, so he went 
to an OSH ED where he got a CT scan of his abdomen showing 
"terminal ileitis", and was started on cipro/flagyl and 
discharged. He has had persistent fever and abdominal discomfort 
since then, as well as HA and myalgias, prompting self-referral 
to ___ today. He says overnight the day prior to admission he 
was persistently febrile, and actually slightly delirious. He 
has been tolerating diet without N/V, though appetite decreased, 
and BM's have been normal in character, without blood or melena. 
His RLQ pain is not associated with food and does not 
improve/worsen with BM's. Patient does endorse mild muscular 
neck pain, but denies neck stiffness, numbness, weakness, 
photophobia. He states he was in ___ 2 weeks ago and many 
were sick with body-aches and fevers, which have all since 
resolved. No other travel. He has been exposed to a pet dog, but 
no other animals. He has had myalgias as above, but no 
arthralgias, no joint swelling, and no rash.

Of note, he endorses 2 similar episodes in past. ___ years ago he 
had GI discomfort and sinus HA, which improved with Augmentin he 
prescribed himself. 8 months ago, he presented to an OSH with 
abdominal pain, found to have "right-sided diverticulitis," and 
improved with antibiotics and bowel rest. He has never had a 
colonoscopu.

In the ED, initial VS were temp 99.3, HR 101, BP 124/74, RR 18, 
99% RA
Tmax during ED course 102.6.
Exam notable for clear lungs, regular tachycardia, abdomen 
mildly tender RLQ, soft,  no nystagmus, no meningismus
Labs showed normal WBC with normal Diff, normal chem panel
Received 1L NS, 1g Tylenol, ___ PO Flagyl, 3g Unasyn
Transfer VS were temp 98.7, HR 87, BP 112/70, RR 16, 98% RA
Gen Surg and GI were consulted, recommending admission to 
medicine, antibiotics, no urgent procedural intervention. 

 
Past Medical History:
HTN
No surgeries 
 
Social History:
___
Family History:
No family hx IBD or other GI pathology
 
Physical Exam:
ADMISSION EXAM
VS -  temp 98.6, BP 124/70, HR 83, RR 18, 99% RA
GENERAL: NAD, A+Ox3, Pleasant, resting in bed
HEENT:  AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, mildly enlarged right tonsil
NECK: nontender supple neck, no LAD, no JVD, negative Brudzinski
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles
ABDOMEN: nondistended, +BS, mildly tender RLQ, no 
rebound/guarding
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose
NEURO: Negative Kernig and Brudzinski signs, EOMI, MAE, No gross 
focal deficits
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes

DISCHARGE EXAM
VS - Tmax 98.7, HR 80-87, BP 122-124/72-75, RR 18, 97-100% RA  
General: well appearing, NAD, non-toxic appearing
HEENT: MMM, EOMI, No oral ulcerations
Neck: supple
CV: RRR, no m/r/g  
Lungs: CTAB, breathing comfortably on RA
Abdomen: soft, mild RLQ tenderness without rebound or guarding, 
nondistended
Ext: warm and well perfused, no edema
Neuro: grossly normal
Skin: no rash
 
Pertinent Results:
ADMISSION LABS
===========================
___ 02:45PM BLOOD WBC-5.5 RBC-4.62 Hgb-14.1 Hct-40.7 MCV-88 
MCH-30.5 MCHC-34.6 RDW-12.1 RDWSD-38.8 Plt ___
___ 02:45PM BLOOD Neuts-70.3 ___ Monos-9.4 Eos-0.0* 
Baso-0.4 Im ___ AbsNeut-3.89 AbsLymp-1.09* AbsMono-0.52 
AbsEos-0.00* AbsBaso-0.02
___ 06:45AM BLOOD ___ PTT-33.7 ___
___ 02:45PM BLOOD Glucose-98 UreaN-8 Creat-1.1 Na-135 K-3.5 
Cl-95* HCO3-30 AnGap-14
___ 06:45AM BLOOD ALT-26 AST-28 LD(LDH)-183 AlkPhos-57 
TotBili-0.5
___ 02:45PM BLOOD CRP-12.1*
___ 07:30PM BLOOD SED RATE-Test      
___ 03:00PM URINE Color-Yellow Appear-Clear Sp ___
___ 03:00PM URINE Blood-TR Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 03:00PM URINE RBC-1 WBC-0 Bacteri-NONE Yeast-NONE Epi-0

DISCHARGE LABS
==========================
___ 06:45AM BLOOD WBC-4.1 RBC-4.50* Hgb-13.7 Hct-39.7* 
MCV-88 MCH-30.4 MCHC-34.5 RDW-12.3 RDWSD-39.7 Plt ___
___ 06:45AM BLOOD Neuts-50 Bands-2 ___ Monos-12 Eos-0 
Baso-2* ___ Myelos-0 AbsNeut-2.13 AbsLymp-1.39 
AbsMono-0.49 AbsEos-0.00* AbsBaso-0.08
___ 06:45AM BLOOD Glucose-124* UreaN-9 Creat-1.0 Na-137 
K-4.0 Cl-101 HCO3-26 AnGap-14
___ 06:45AM BLOOD Calcium-8.6 Phos-3.6 Mg-1.9

IMAGING
==============================
OSH CT Abdomen ___
Slight mesenteric fat stranding with prominent lymph nodes, none 
of which are pathologically enlarged by CT size criteria. These 
findings are nonspecific, possibly related to a mild underlying 
inflammatory or infectious process.

OSH CT Head ___
1. No acute intracranial process. 
2. Mild maxillary sinus inflammation. 

MICROBIOLOGY
==============================
Stool studies, Yersinia antibodies pending at discharge
 
Brief Hospital Course:
___ y/o M with a h/o HTN presenting with headache, fever, RLQ 
pain. Found to have fat stranding and adenopathy in region of 
terminal ileum on outside hospital CT scan.

ACTIVE ISSUES
=============================
# Fever, RLQ Pain: Approx 5 day history. Tmax 103 at home, 102.6 
in ED. CT Scan at OSH notable for fat stranding near terminal 
ileum, with prominent but not pathologically enlarged lymph 
nodes nearby. Abdominal exam tender, but not peritoneal, and 
improved over hospital course. Overall he was nontoxic 
appearing, with normal WBC, and felt much better after fluids 
and antibiotics. Stools were normal, no diarrhea, no 
hematochezia. CRP mildly elevated at 12.1, ESR normal at 14. DDx 
of Infectious enteritis (viral, bacterial), vs autoimmune/IBD 
given this is his ___ episode of similar symptoms. He received 
approx 2 days of Cipro/Flagyl prior to arrival (from OSH), plus 
one dose Flagyl and one dose Unasyn in ED, then started on 
Unasyn on floor, later transitioned to Augmentin to complete ___s outpatient. He will follow up with GI outpatient 
for colonoscopy. Stool Culture, C-Diff, O+P, Yersinia serologies 
pending on discharge. ___ use Tylenol PRN for fevers.

# HA: CT head as part of headache workup was unremarkable. No 
evidence of meningismus on exam, and normal neuro exam. Overall 
clinical suspicion for meningitis is low. Likely due to 
underlying infectious/inflammatory process.  ___ use Tylenol PRN 
for fever or pain.

CHRONIC PROBLEMS
===========================
# HTN: Currently normotensive. Continue home HCTZ 25, Losartan 
50.

# Male pattern baldness: ___ resume home finasteride 1mg daily.

TRANSITIONAL ISSUES
===========================
- This is now his third episode of self-resolving fever, general 
symptoms and abdominal pain. We recommend outpatient colonoscopy 
and GI follow up to further evaluate for inflammatory bowel 
disease.
- Discharged on Augmentin 875mg Q12, to complete a 10 day total 
course, last day ___
- Workup pending at time of discharge: Yersinia serologies, 
Stool culture, Stool O+P, C-Diff
- Full code
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrochlorothiazide 25 mg PO DAILY 
2. Losartan Potassium 50 mg PO DAILY 
3. Finasteride 1 mg PO DAILY 

 
Discharge Medications:
1. Hydrochlorothiazide 25 mg PO DAILY 
2. Losartan Potassium 50 mg PO DAILY 
3. Finasteride 1 mg PO DAILY 
4. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth twice daily Disp #*17 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnoses:
Abdominal Pain
Ileitis
Fever
Headache

Secondary diagnoses:
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Dr. ___,

___ was a pleasure caring for you at ___. You were admitted to 
our hospital for fever, headache, and abdominal pain. Your CT 
Scan from the ___ showed "terminal ileitis," 
with some lymph nodes nearby. On our review of the CT scan 
(medicine team, GI team, and surgical team), we saw nothing 
requiring urgent invasive intervention. You were given IV fluids 
and antibiotics, and an infectious workup was started. Your labs 
were reassuring. Some stool studies are still pending, and we 
will communicate to you and your primary care doctor if anything 
comes back positive. You will be discharged on Augmentin to 
complete an antibiotic course, though it is possible that the 
etiology could be viral or autoimmune as well.

We recommend outpatient colonoscopy and GI follow-up in the near 
future to further evaluate. If your symptoms worsen, please do 
not hesitate to seek further medical care.

Once again, it was a pleasure caring for you, and we wish you 
all the best.
___ Medicine Team
 
Followup Instructions:
___